US07829560B2
3-Fluoro-N-[4-({2-[methyl(prop-2-yn-1-yl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-5-piperidin-1-ylbenzamide (Compound B407).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and methyl-prop-2-ynylamine according to conditions described in general procedure C. Mp: 116-117° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.58-1.61 (m, 6 H), 2.85 (m, 3 H), 3.27-3.30 (m, 5 H), 4.22 (s, 2 H), 6.30 (d, J=5.5 Hz, 1 H), 6.94-6.98 (m, 1 H), 7.15 (d, J=8.8 Hz, 1 H), 7.43 (d, J=8.0 Hz, 1H), 7.46 (s, 1 H), 7.55-7.60 (m, 3 H), 7.82-7.84 (m, 1 H), 7.98 (d, J=7.4 Hz, 1 H), 8.30 (d, J=5.5 Hz, 1 H), 10.44 (s, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | methyl-prop-2-ynylamine | CNCC#C | C4H7N
product | 3-Fluoro-N-[4-({2-[methyl(prop-2-yn-1-yl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-5-piperidin-1-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)N(CC#C)C)C=C(C1)N1CCCCC1 | C30H28FN5O2
